US04016193
Methyl 2-(3-nitro-4-hydroxyphenyl)propionate
In a mixture of 18ml of nitric acid and 30ml of acetic acid 2.76g of methyl 2-(4-hydroxyphenyl)propionate was stirred at -10° to -20° C for 4 hours. The reaction mixture was poured into ice water and extracted with chloroform. The extract was washed with a sodium hydrogen carbonate solution and water and dried over magnesium sulfate. The chloroform was distilled off to give the desired compound in a yield of 2.35g (69%). The physical data of this compound coincided with those of the compound as described above.

reactant | methyl 2-(4-hydroxyphenyl)propionate | OC1=CC=C(C=C1)C(C(=O)OC)C | C10H12O3
reactant | nitric acid | 18ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 30ml, 2.76g | C(C)(=O)O | C2H4O2
product | Methyl 2-(3-nitro-4-hydroxyphenyl)propionate | [N+](=O)([O-])C=1C=C(C=CC1O)C(C(=O)OC)C | C10H11NO5
